US08703768B2
Step 1: Methyl 3-(bis(tert-butoxycarbonyl)amino)-6-bromopyrazine-2-carboxylate
To a stirred mixture of methyl 3-amino-6-bromopyrazine-2-carboxylate (13.22 g, 57.0 mmol) and 4-dimethylaminopyridine (348 mg, 2.85 mmol) at rt in dichloroethane (175 ml) under an argon atmosphere was added dropwise a solution of di-tert-butyl dicarbonate (25.5 g, 117 mmol) in dichloroethane (75 ml) within 30 min. The mixture was heated to 75° C. and stirring at that temperature was continued for 18 h. The mixture was concentrated to leave a light brown syrup. Trituration in cyclohexane (150 ml) gave a precipitate. The suspension was stirred at rt for 2 h. The solid was collected by filtration, washed with cyclohexane and dried. The filtrate was concentrated and the residue was triturated in cyclohexane (50 ml). The suspension was stirred at rt for 2 h. The solid was collected by filtration, washed with cyclohexane and dried. The two crops of solids thus obtained were combined to give the title compound (23.2 g, 94%) as off-white solid.

reactant | methyl 3-amino-6-bromopyrazine-2-carboxylate | 57.0 mmol, 13.22 g | NC=1C(=NC(=CN1)Br)C(=O)OC | C6H6BrN3O2
reactant | di-tert-butyl dicarbonate | 117 mmol, 25.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 2.85 mmol, 348 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloroethane | 175 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 75 ml | ClC(C)Cl | C2H4Cl2
solvent | cyclohexane | 150 ml | C1CCCCC1 | C6H12
product | Methyl 3-(bis(tert-butoxycarbonyl)amino)-6-bromopyrazine-2-carboxylate | 23.2 g, 94% | C(C)(C)(C)OC(=O)N(C=1C(=NC(=CN1)Br)C(=O)OC)C(=O)OC(C)(C)C | C16H22BrN3O6
